US06384220B2
A mixture of 3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionic acid methyl ester (245 mg, 0.71 mmol) and methyl urea (131 mg, 1.76 mmol) was treated with a solution of magnesium methoxide in methanol (7.4 wt. %, 5.5 mL, 2.12 mmol). The reaction mixture was then concentrated in vacuo to approximately one-half the volume of methanol. The resulting reaction mixture was then heated under reflux for 15 h. The reaction mixture was allowed to cool to 25° C. and then partitioned between water (20 mL) and ethyl acetate (50 mL). The layers were separated, and the aqueous layer was further extracted with ethyl acetate (1×25 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 1-{3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionyl}-3-methyl-urea (79 mg, 29%) as a white foam: mp 91-95° C. (foam to gel); FAB-HRMS m/e calcd for C24H27N3O2 (M+H)+ 390.2181, found 390.2192.

reactant | 3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionic acid methyl ester | 0.71 mmol, 245 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C=1C=C2C=CNC2=CC1)=O | C23H25NO2
reactant | methyl urea | 1.76 mmol, 131 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 2.12 mmol, 5.5 mL | CO | CH4O
product | 1-{3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionyl}-3-methyl-urea | 79 mg, 29% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | C24H27N3O2
